US07662771B2
Add Dess-Martin periodinane (16.5 g, 38.7 mmol) to a solution of 7-(2-hydroxy-2-phenylethylcarbamoyl)heptanoic acid methyl ester (10.2 g, 33.3 mmol) in methylene chloride (360 mL) at 0° C. under nitrogen, stir and warm the mixture to room temperature for 4 hours. Filter the mixture through Celite, wash with ethyl acetate (3×100 mL) and remove the solvent under reduced pressure. Purify the residue by flash column chromatography on silica gel, eluting with hexane/ethyl acetate (60:40), to provide 7-(2-oxo-2-phenylethylcarbamoyl)heptanoic acid methyl ester (7.33 g, 72%).

reactant | Dess-Martin periodinane | 38.7 mmol, 16.5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 7-(2-hydroxy-2-phenylethylcarbamoyl)heptanoic acid methyl ester | 33.3 mmol, 10.2 g | COC(CCCCCCC(NCC(C1=CC=CC=C1)O)=O)=O | C17H25NO4
solvent | methylene chloride | 360 mL | C(Cl)Cl | CH2Cl2
product | 7-(2-oxo-2-phenylethylcarbamoyl)heptanoic acid methyl ester | 7.33 g, 72% | COC(CCCCCCC(NCC(C1=CC=CC=C1)=O)=O)=O | C17H23NO4
